US07220808B2
Under a nitrogen atmosphere, 20 g of 4,4-bis (trifluoromethyl)-4-hydroxy-1-butene (96.1 mmol), 8.05 g of thioacetic acid (105.7 mmol), 60 g of 1,4-dioxane and 0.79 g of 2,2′-azobisisobutyronitrile (hereinafter abbreviated as AIBN) (4.8 mmol) were put into a flask equipped with a stirring bar, a thermometer and a condenser, and heated with stirring. During the reaction, thioacetic acid and AIBN were appropriately added and after confirming that a substrate was completely consumed, the reaction solution was distilled as it was under reduced pressure to yield an intermediate product, 22 g of 4-acetylthio-1,1-bis (trifluoromethyl)-1-butanol (76.9 mmol).

reactant | 4,4-bis (trifluoromethyl)-4-hydroxy-1-butene | 96.1 mmol, 20 g | FC(C(CC=C)(O)C(F)(F)F)(F)F | C6H6F6O
reactant | thioacetic acid | 105.7 mmol, 8.05 g | C(C)(=S)O | C2H4OS
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
catalyst | 2,2′-azobisisobutyronitrile | 0.79 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | 1,4-dioxane | 60 g | O1CCOCC1 | C4H8O2
product | 4-acetylthio-1,1-bis (trifluoromethyl)-1-butanol | 76.9 mmol, 22 g | C(C)(=O)SCCCC(O)(C(F)(F)F)C(F)(F)F | C8H10F6O2S
